US07030107B2
In a similar manner to Reference Example 4, 5-[3,5-bis(trifluoromethyl)benzyl]-7-iodo-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (300 mg) was reacted with 2-fluorophenylboronic acid (143 mg) to obtain 5-[3,5-bis(trifluoromethyl)benzyl]-7-(2-fluorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (218 mg, 77%).

reactant | 5-[3,5-bis(trifluoromethyl)benzyl]-7-iodo-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 300 mg | FC(C=1C=C(CN2C(C3=C(OCCC2)N=CC=C3I)=O)C=C(C1)C(F)(F)F)(F)F | C18H13F6IN2O2
reactant | 2-fluorophenylboronic acid | 143 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 5-[3,5-bis(trifluoromethyl)benzyl]-7-(2-fluorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 218 mg, 77% | FC(C=1C=C(CN2C(C3=C(OCCC2)N=CC=C3C3=C(C=CC=C3)F)=O)C=C(C1)C(F)(F)F)(F)F | C24H17F7N2O2
